### PR TITLE
[Merged by Bors] - feat(RingTheory/Finiteness): Improve `fg_induction`

### PR DESCRIPTION
**Pull request by martinwintermath**
- include the FG-hypothesis into motive for `fg_induction`. This is necessary, since it might be that `P (M₁ ⊔ M₂)` is only provable from `P M₁`and `P M₂` if we can use that `M₁` and `M₂` are FG. Also, `M₁.FG` and `M₂.FG` are not provable from `(M₁ ⊔ M₂).FG` in general. This also enables the use of the `induction` tactic with `fg_induction`.
- add `fg_sup_span_induction` that adds one 1-dimensional submodule at a time.
- give expressive names to the induction start and induction step hypotheses.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 1]
```diff
@@ -128,17 +128,28 @@ theorem fg_of_linearEquiv (e : M ≃ₗ[R] P) (h : (⊤ : Submodule R P).FG) : (
   e.symm.range ▸ map_top (e.symm : P →ₗ[R] M) ▸ h.map _
 
 theorem fg_induction (R M : Type*) [Semiring R] [AddCommMonoid M] [Module R M]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Finiteness/Basic.lean]:
```suggestion
theorem fg_induction {R M : Type*} [Semiring R] [AddCommMonoid M] [Module R M]
```

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 2]
```diff
@@ -128,17 +128,28 @@ theorem fg_of_linearEquiv (e : M ≃ₗ[R] P) (h : (⊤ : Submodule R P).FG) : (
...
+    (bot : motive ⊥ fg_bot)
+    (sup : ∀ (N : Submodule R M) (x : M) (hN : N.FG),
+      motive N hN → motive (N ⊔ (R ∙ x)) (hN.sup <| fg_span_singleton x))
+    (N : Submodule R M) (hN : N.FG) : motive N hN := by classical
+  obtain ⟨s, rfl⟩ := hN
+  induction s using Finset.induction with
+  | empty => simp [bot]
+  | insert x s hxs ih => simpa [span_insert, sup_comm] using sup (span R s) x (by use s) ih
+
+theorem fg_induction' (R M : Type*) [Semiring R] [AddCommMonoid M] [Module R M]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Finiteness/Basic.lean]: Why did you rename the old `fg_induction` to `fg_induction'`? The old version seems like the version that is easier to use in most cases. So I would suggest keeping the old name and naming the new one something like `fg_sup_span_singleton_induction` (or `fg_sup_span_induction`?).

**Review by chrisflav — COMMENTED** [review]
Thanks for fixing this. Could you please mention the fact that this change enables usage of `induction` with this lemma in the PR description?

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
